US06878722B2
Step 68b: Preparation of 2-Cyclopropyl-7-methoxy-quinolin-4-ol
Step 68b) A solution of product (5.35 g, 22.72 mmol) of step 1 example 376 {cyclopropanecarboxylic acid (2-acetyl-5-methoxy-phenyl)-amide} and tert-BuOK (5.45 g, 48.6 mmol) in tert-butanol (130 g) was refluxed for 6 h. The reaction mixture was cooled, poured into ice cold buffer and adjusted to pH 7, filtered. The solid collection was recrystallized from MeOH/Et2O to provide the product (1 g, 20%): 1H NMR (methanol-d4) δ ppm 0.96 (m, 2H), 1.15 (m, 2H), 1.94 (m, 1H), 3.87 (s, 3H), 5.86 (m, 1H), 6.93 (m, 2H), 8.04 (d, J=8.85 Hz, 1H).

reactant | cyclopropanecarboxylic acid (2-acetyl-5-methoxy-phenyl)-amide | C(C)(=O)C1=C(C=C(C=C1)OC)NC(=O)C1CC1 | C13H15NO3
reactant | tert-BuOK | 48.6 mmol, 5.45 g | C(C)(C)(C)O[K]
solvent | tert-butanol | 130 g | C(C)(C)(C)O | C4H10O
product | 2-Cyclopropyl-7-methoxy-quinolin-4-ol | 1 g, 20% | C1(CC1)C1=NC2=CC(=CC=C2C(=C1)O)OC | C13H13NO2
